US08071584B2
3-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-5-(3-furanyl)-1H-indole-7-carboxamide
5-bromo-3-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-1H-indole-7-carboxamide (30 mg, 0.078 mmol), 3-furanylboronic acid (24.05 mg, 0.215 mmol, 2.76 eq), potassium carbonate (64.6 mg, 6 eq), PdCl2(dppf) (4.56 mg, 0.006 mmol, 0.08 eq), were dissolved in a mixture of 1,4-dioxane (2 mL) and water (1 mL) in a 2-5 mL biotage microwave reaction tube. The mixture was heated in a Biotage microwave at high absorption for 10 minutes at 120° C. The reaction mixture was filtered through a polypropylene cartridge (10 mL tube) on a Bohdan Miniblock in a reaction tube and was then concentrated and purified by Gilson HPLC with a water-acetonitrile with 0.1% TFA buffer. The desired product fractions were combined and concentrated in an EZ2 Genevac evaporator, giving 14.4 mg (44.7%) of the title compound.

reactant | 5-bromo-3-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-1H-indole-7-carboxamide | 0.078 mmol, 30 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)CC1CCS(CC1)(=O)=O | C15H17BrN2O3S
reactant | 3-furanylboronic acid | 0.215 mmol, 24.05 mg, 2.76 eq | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | potassium carbonate | 64.6 mg, 6 eq | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 0.006 mmol, 4.56 mg, 0.08 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-5-(3-furanyl)-1H-indole-7-carboxamide | 14.4 mg, 44.7% | O=S1(CCC(CC1)CC1=CNC2=C(C=C(C=C12)C1=COC=C1)C(=O)N)=O | C19H20N2O4S
